US07229999B2
(−)-6-Cyclopropylmethoxy-5-(4-fluoro-phenyl)-N-(2-hydroxymethyl-butyl)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, cyclopropanemethanol, (4-fluoro-phenyl)-boronic acid and 2-aminomethyl-1-butanol as starting materials to yield racemic 6-cyclopropylmethoxy-5-(4-fluoro-phenyl)-N-(2-hydroxymethyl-butyl)-nicotinamide. Separation with heptane/ethanol on ChiralpakAD® yielded the (−)-enantiomer, MS (ISP) 373.2 (M+H)+, αD20: −4.9° in MeOH.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | cyclopropanemethanol | C1(CC1)CO | C4H8O
reactant | (4-fluoro-phenyl)-boronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 2-aminomethyl-1-butanol | NCC(CO)CC | C5H13NO
product | racemic 6-cyclopropylmethoxy-5-(4-fluoro-phenyl)-N-(2-hydroxymethyl-butyl)-nicotinamide | C1(CC1)COC1=NC=C(C(=O)NCC(CC)CO)C=C1C1=CC=C(C=C1)F | C21H25FN2O3
